US03974156
To a solution of 4-benzyl-2-hydroxymethylmorpholine (118.8 g.) in dry pyridine (250 ml.) toluene-p-sulphonyl chloride (120.2 g.) is added gradually at 18°-25°C. The mixture is stirred for 20 hours at ambient temperature (ca. 20°C.) and the pyridine is removed under diminished pressure. The residue is diluted with water, the mixture made alkaline by the addition of sodium hydroxide solution, and the product is then extracted into ether. The ethereal solution is dried (MgSO4) and filtered, the ether is evaporated and the residual solid is crystallised from cyclohexane or petroleum ether (b.p. 60°-80°C.) to give 4-benzyl-2-toluene-p-sulphonyloxymethylmorpholine, m.p. 78°-79°C.

reactant | 4-benzyl-2-hydroxymethylmorpholine | 118.8 g | C(C1=CC=CC=C1)N1CC(OCC1)CO | C12H17NO2
reactant | toluene-p-sulphonyl chloride | 120.2 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
product | 4-benzyl-2-toluene-p-sulphonyloxymethylmorpholine | C(C1=CC=CC=C1)N1CC(OCC1)COS(=O)(=O)C1=CC=C(C=C1)C | C19H23NO4S
